US08357679B2
C: 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea
4-Nitrophenyl carbonochloridate (0.217 mmol, 43.7 mg) was added to a stirred solution of (4-aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperazin-1-yl)methanone (0.217 mmol, 100 mg) in dichloromethane (1 mL). After 1 hour, 1-amino-2-methylpropan-2-ol (0.650 mmol, 58.0 mg) was added and stirring continued for 1 hour. The reaction mixture was purified by silica column chromatography (eluant dichloromethane/methanol 0% to 10%) to yield the title compound (30 mg).

reactant | 4-Nitrophenyl carbonochloridate | 0.217 mmol, 43.7 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | (4-aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperazin-1-yl)methanone | 0.217 mmol, 100 mg | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
reactant | 1-amino-2-methylpropan-2-ol | 0.650 mmol, 58.0 mg | NCC(C)(O)C | C4H11NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea | 30 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC=C(C=C2)NC(=O)NCC(C)(C)O)C=C1)(F)F | C26H30F6N4O4
